US04093731
Preparation of Methyl-6-n-Propoxybenzothiazole-2-Carbamate
In a round bottom 1 liter flask equipped with a reflux condenser, a magnetic stirrer and a heating mantle is placed 45.75 g. of 2-mercapto-4-propoxyaniline; 48.25 g. of methyl-N-[di(methylthio)-methylene]carbamate, and 250 ml absolute ethanol. This mixture is heated to boiling under an inert atmosphere of nitrogen for 12 hrs. It is then chilled and the white crystalline solid which is formed is isolated by filtration, washed with cold ethanol and dried. m.p. 178°-180° C.

reactant | 2-mercapto-4-propoxyaniline | SC1=C(N)C=CC(=C1)OCCC | C9H13NOS
reactant | methyl-N-[di(methylthio)-methylene]carbamate | COC(N=C(SC)SC)=O | C5H9NO2S2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | Methyl-6-n-Propoxybenzothiazole-2-Carbamate | COC(NC=1SC2=C(N1)C=CC(=C2)OCCC)=O | C12H14N2O3S
